### PR TITLE
[Merged by Bors] - chore: uncdot various files

### PR DESCRIPTION
**Pull request by adomani**
These `·` are scoping when there is a single active goal.

These were found using a modification of the linter at https://github.com/leanprover-community/mathlib4/pull/12339.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by grunweg — COMMENTED** [review]
I reviewed everything up to and including CategoryTheory: you're only un-cdoting.
I trust your linter that these are not required.

PS. This PR is huge; I cannot review +-850 lines in one go. I wonder if splitting this is useful.

**Comment by grunweg** [comment]
And I should also say: thank you for your continuous effort on developing linters. I would be really happy for the multi-goal linter to land. Just yesterday I was commenting on this with a new contributor's PR.

File: Mathlib/Data/Complex/Exponential.lean [hunk 1]
```diff
@@ -1351,19 +1351,19 @@ theorem exp_bound' {x : ℂ} {n : ℕ} (hx : abs x / n.succ ≤ 1 / 2) :
...
-      rw [geom_sum_eq, div_le_iff_of_neg]
-      · trans (-1 : ℝ)
-        · linarith
-        · simp only [neg_le_sub_iff_le_add, div_pow, Nat.cast_succ, le_add_iff_nonneg_left]
-          positivity
-      · linarith
+    simp_rw [← div_pow]
+    rw [geom_sum_eq, div_le_iff_of_neg]
+    · trans (-1 : ℝ)
       · linarith
```
Comment (grunweg) [inline Mathlib/Data/Complex/Exponential.lean:1362]: Just highlighting: this is really just un-indenting; git's diff is confusing here.

**Review by grunweg — COMMENTED** [review]
Now reviewed up to and including LinearAlgebra.

File: Mathlib/MeasureTheory/Function/UniformIntegrable.lean [hunk 2]
```diff
@@ -351,25 +351,25 @@ theorem Memℒp.snorm_indicator_le' (hp_one : 1 ≤ p) (hp_top : p ≠ ∞) (hf
...
-      · rw [two_mul]
-        refine' add_le_add (le_trans (snorm_mono_measure _ Measure.restrict_le_self) hM) _
-        rw [← snorm_indicator_eq_snorm_restrict hs]
-        exact hδ s hs hμs
-    · ext x
-      by_cases hx : M ≤ ‖f x‖
-      · rw [Pi.add_apply, Set.indicator_of_mem, Set.indicator_of_not_mem, add_zero] <;> simpa
-      · rw [Pi.add_apply, Set.indicator_of_not_mem, Set.indicator_of_mem, zero_add] <;>
-          simpa using hx
+      · split_ifs with h
```
Comment (grunweg) [inline Mathlib/MeasureTheory/Function/UniformIntegrable.lean:354]: This is adding two dots (which I don't object to; I trust your linter).

File: Mathlib/MeasureTheory/Measure/Haar/Quotient.lean [hunk 3]
```diff
@@ -365,8 +365,8 @@ lemma _root_.MeasureTheory.IsFundamentalDomain.absolutelyContinuous_map
   intro s s_meas hs
   rw [map_apply meas_π s_meas] at hs ⊢
   rw [Measure.restrict_apply] at hs
-  apply h𝓕.measure_zero_of_invariant _ _ hs
-  · intro γ
+  · apply h𝓕.measure_zero_of_invariant _ _ hs
```
Comment (grunweg) [inline Mathlib/MeasureTheory/Measure/Haar/Quotient.lean:368]: Nice find! (This is a mix of cdot-ing and un-cdot-ing, so arguably fits here.)

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean [hunk 4]
```diff
@@ -361,34 +361,34 @@ lemma continuous_levyProkhorov_to_probabilityMeasure :
...
-            _ = δ := by field_simp; ring
-        · exact eventually_of_forall f_nn
-      · positivity
-      · rw [ENNReal.ofReal_add (by positivity) (by positivity), ← add_zero (levyProkhorovEDist _ _)]
-        apply ENNReal.add_lt_add_of_le_of_lt (levyProkhorovEDist_ne_top _ _)
-              (le_of_eq ?_) (ofReal_pos.mpr εs_pos)
-        rw [LevyProkhorov.dist_def, levyProkhorovDist,
-            ofReal_toReal (levyProkhorovEDist_ne_top _ _)]
-        simp only [Ps, P, LevyProkhorov.probabilityMeasure]
+    have aux : ∀ (z : ℝ), Iio (z + δ/2) ∈ 𝓝 z := fun z ↦ Iio_mem_nhds (by linarith)
```
Comment (grunweg) [inline Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean:364]: Note to self: I haven't scrutinized this diff block yet; git's diff is unhelpful here.

File: Mathlib/Probability/Distributions/Exponential.lean [hunk 5]
```diff
@@ -140,21 +140,21 @@ lemma lintegral_exponentialPDF_eq_antiDeriv {r : ℝ} (hr : 0 < r) (x : ℝ) :
...
-      (by set_option tactic.skipAssignedInstances false in norm_num; positivity)]
-    · norm_num; ring
-    · simp only [intervalIntegrable_iff, uIoc_of_le h]
-      exact Integrable.const_mul (exp_neg_integrableOn_Ioc hr) _
-    · have : Continuous (fun a ↦ rexp (-(r * a))) := by
-        simp only [← neg_mul]; exact (continuous_mul_left (-r)).exp
-      exact Continuous.continuousOn (Continuous.comp' (continuous_mul_left (-1)) this)
-    · simp only [neg_mul, one_mul]
-      exact fun _ _ ↦ HasDerivAt.hasDerivWithinAt hasDerivAt_neg_exp_mul_exp
+    · have : ∫ a in uIoc 0 x, r * rexp (-(r * a)) = ∫ a in (0)..x, r * rexp (-(r * a)) := by
```
Comment (grunweg) [inline Mathlib/Probability/Distributions/Exponential.lean:143]: This is mostly cdot-ing; arguably, this belongs into another PR.

**Review by grunweg — COMMENTED** [review]
Now reviewed up to and including Probability. That's it from me for today.
Most comments are flagging things for reviewers; two blocks I'd have to review more closely as github's diff is not so clear.

File: Mathlib/Topology/TietzeExtension.lean [hunk 6]
```diff
@@ -394,29 +394,29 @@ theorem exists_extension_forall_exists_le_ge_of_closedEmbedding [Nonempty X] (f
...
-      · refine' (sub_lt_self_iff _).2 _
-        calc
-          0 < g y - c := sub_pos.2 hcb
-          _ = dg y := (dgb rfl).symm
-      · exact ((sub_le_self_iff _).2 (dgmem _).1).trans_lt hlt
-    rcases hb.exists_between hyb with ⟨_, ⟨xu, rfl⟩, hyxu, _⟩
-    cases' lt_or_le c (g y) with hc hc
-    · rcases em (a ∈ range f) with (⟨x, rfl⟩ | _)
-      · refine' ⟨x, xu, _, hyxu.le⟩
+  have hyb : (g - dg) y < b := by
```
Comment (grunweg) [inline Mathlib/Topology/TietzeExtension.lean:397]: This block has to be manually checked.

**Review by grunweg — APPROVED** [review]
Now reviewed the remainder of this PR (and the merge commits): I think this is good to go.

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean (hunk 4 above)
Comment (grunweg) [reply Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean:364]: Ignoring whitespace, this is clear: just un-cdoting one thing.

File: Mathlib/Probability/Distributions/Exponential.lean (hunk 5 above)
Comment (grunweg) [reply Mathlib/Probability/Distributions/Exponential.lean]: To be more precise: this file is cdot-ing here and on line 148, but un-cdot-ing on line 150. IOW, this could be included here.

File: Mathlib/Topology/TietzeExtension.lean (hunk 6 above)
Comment (grunweg) [reply Mathlib/Topology/TietzeExtension.lean:397]: Did so: it's just github's diff being confused. Reviewing with whitespace hidden shows this is just un-cdoting.

**Comment by jcommelin** [comment]
bors d+

I am not going to kick this on the queue yet, for fear of merge conflicts...
